US07868014B2
Combine (3S)-[1-(6-bromopyridin-2-yl)-pyrrolidin-3-yl]-carbamic acid tert-butyl ester (260 mg, 0.76 mmol) and dichloromethane (10 mL). Add trifluoroacetic acid (2 mL) and stir at room temperature for 4 hours. Concentrate and dissolve in methanol. Load onto Dowex® 1×2-200 column and elute with methanol. Concentrate and add acetone to give a solid. Filter the solid to give (3S)-1-(6-bromopyridin-2-yl)-pyrrolidin-3-ylamine hydrochloride (187 mg, 88%). 1H NMR (400 MHz, MeOH-d4) δ 7.39 (t, 1H, J=7.6 Hz), 6.77 (d, 1H, J=7.6 Hz), 6.47 (d, 1H, J=7.6 Hz), 4.04-3.99 (m, 1H), 3.80-3.75 (m, 1H), 3.66-3.59 (m, 2H), 3.56-3.50 (m, 1H), 2.52-2.43 (m, 1H), 2.21-2.13 (m, 1H).

reactant | (3S)-[1-(6-bromopyridin-2-yl)-pyrrolidin-3-yl]-carbamic acid tert-butyl ester | 0.76 mmol, 260 mg | C(C)(C)(C)OC(N[C@@H]1CN(CC1)C1=NC(=CC=C1)Br)=O | C14H20BrN3O2
reactant | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | (3S)-1-(6-bromopyridin-2-yl)-pyrrolidin-3-ylamine hydrochloride | 187 mg, 88% | Cl.BrC1=CC=CC(=N1)N1C[C@H](CC1)N | InChI=1S/C9H12BrN3.ClH/c10-8-2-1-3-9(12-8)13-5-4-7(11)6-13;/h1-3,7H,4-6,11H2;1H/t7-;/m0./s1
